US09428503B2
Intermediate A5: Ethyl 6-bromo-4-(oxan-4-ylamino)quinoline-3-carboxylate
On a larger scale, ethyl 6-bromo-4-chloroquinoline-3-carboxylate (2196 g, (1976 g active), 6.28 mol) was charged to the vessel with DMA (16 L). Tetrahydro-2H-pyran-4-amine (1224 g, 12.10 mol) was added over 10 minutes with an observed exotherm of 21-27° C. DIPEA (3.5 L, 20.09 mol) was added with no observed exotherm. The mixture was heated to 75-85° C. and the resulting solution stirred for 18.5 h at 80° C. HPLC indicated consumption of starting material and 99.2% product. The reaction was cooled to 50° C. and then poured into water (50 L). The resulting suspension was stirred for 2 h at r.t. and the solids isolated by filtration, washing with water (8 L then 2×4 L). The solid was dried under vacuum at 40° C. for 55 h to give 2307 g of desired material. Analytical data was consistent with that obtained from previous batches.

reactant | ethyl 6-bromo-4-chloroquinoline-3-carboxylate | 6.28 mol, 2196 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)Cl | C12H9BrClNO2
reactant | Tetrahydro-2H-pyran-4-amine | 12.10 mol, 1224 g | O1CCC(CC1)N | C5H11NO
reactant | DIPEA | 20.09 mol, 3.5 L | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 16 L | CC(=O)N(C)C | C4H9NO
product | Ethyl 6-bromo-4-(oxan-4-ylamino)quinoline-3-carboxylate | 2307 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1CCOCC1 | C17H19BrN2O3
